US05374772
A solution of 3.0 g (7.4 mmol) of 3,5-bis(3-phenylpropoxy)benzoic acid methyl ester and 15 mL (15 mmol) of 1N NaOH in 100 mL of methanol and 40 mL of dioxane was stirred at reflux for 16 hours. The solvents were removed at reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated to an oil which was crystallized from methanol-water to give 2.56 g, mp 107°-109°) of 3,5-bis(3-phenyl-propoxy)benzoic acid.

reactant | 3,5-bis(3-phenylpropoxy)benzoic acid methyl ester | 7.4 mmol, 3.0 g | COC(C1=CC(=CC(=C1)OCCCC1=CC=CC=C1)OCCCC1=CC=CC=C1)=O | C26H28O4
reactant | NaOH | 15 mmol, 1N, 15 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 3,5-bis(3-phenyl-propoxy)benzoic acid | C1(=CC=CC=C1)CCCOC=1C=C(C(=O)O)C=C(C1)OCCCC1=CC=CC=C1 | C25H26O4
